US08710236B2
To 2-(4-tert-Butyl-phenyl)-N-(4-iodo-phenyl)-3-(4-nitro-phenyl)-propionamide (1056 mg, 2 mmol) in 8 ml 1,2-dimethoxyethane, 4 ml ethanol, and 2 ml water was added benzo[b]furan-2-boronic acid (972 mg, 6 mmol), bis(tri-o-tolylphosphine)palladium(II)dichloride (158 mg, 0.2 mmol), and sodium carbonate (1060 mg, 10 mmol). The reaction mixture was stirred at 125° C. for 6 min, filtered, and concentrated. Chromatography of the residue (20% ethyl acetate in hexane) afforded N-(4-Benzofuran-2-yl-phenyl)-2-(4-tert-butyl-phenyl)-3-(4-nitro-phenyl)-propionamide as a yellow foam (830 mg, 80%).

reactant | 2-(4-tert-Butyl-phenyl)-N-(4-iodo-phenyl)-3-(4-nitro-phenyl)-propionamide | 2 mmol, 1056 mg | C(C)(C)(C)C1=CC=C(C=C1)C(C(=O)NC1=CC=C(C=C1)I)CC1=CC=C(C=C1)[N+](=O)[O-] | C25H25IN2O3
reactant | water | 2 ml | O | H2O
reactant | benzo[b]furan-2-boronic acid | 6 mmol, 972 mg | O1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO3
reactant | sodium carbonate | 10 mmol, 1060 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 8 ml | COCCOC | C4H10O2
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | N-(4-Benzofuran-2-yl-phenyl)-2-(4-tert-butyl-phenyl)-3-(4-nitro-phenyl)-propionamide | 830 mg, 80% | O1C(=CC=C2C1=CC=C2)C2=C(C=CC=C2)NC(C(CC2=CC=C(C=C2)[N+](=O)[O-])C2=CC=C(C=C2)C(C)(C)C)=O | C33H30N2O4
